US07186716B2
To a solution of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-sulfonyl chloride (500 mg, 1.64 mmol) in DCM (5 mL) was added 4-(2-aminoethyl)morpholine (427 mg, 3.28 mmol) and triethylamine (0.5 mL). The mixture was stirred at room temperature for 4 hours. The reaction was extracted with DCM, the combined DCM was washed with water and brine, dried and concentrated. The residue was purified on a silica gel column to give 450 mg (69%) of 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-sulfonic acid (2-morpholin-4-yl-ethyl)-amide as a white solid.

reactant | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-sulfonyl chloride | 1.64 mmol, 500 mg | ClC1=NC=CC=C1C(=O)C1=CC(=CN1)S(=O)(=O)Cl | C10H6Cl2N2O3S
reactant | 4-(2-aminoethyl)morpholine | 3.28 mmol, 427 mg | NCCN1CCOCC1 | C6H14N2O
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-chloro-pyridine-3-carbonyl)-1H-pyrrole-3-sulfonic acid (2-morpholin-4-yl-ethyl)-amide | 450 mg, 69% | N1(CCOCC1)CCNS(=O)(=O)C1=CNC(=C1)C(=O)C=1C(=NC=CC1)Cl | C16H19ClN4O4S
